US06727264B1
N-(3-{1-[4-(4-ISOPROPYLPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure K (KI) and Scheme E (K2CO3) using 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide and 4-chloro-1-(4-isopropylphenyl)-1-butanone: ESMS m/e: 435.2 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | 4-chloro-1-(4-isopropylphenyl)-1-butanone | ClCCCC(=O)C1=CC=C(C=C1)C(C)C | C13H17ClO
product | N-(3-{1-[4-(4-ISOPROPYLPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C28H38N2O2
